US06927228B2
(a) 5-(3′-Hydroxybiphenyl-4-ylmethyl)-thiazolidine-2,4-dione
In a manner similar to that of Example 1(g), starting with 3 g (10.1 mmol) of 5-(3′-hydroxybiphenyl-4-ylmethylene)thiazolidine-2,4-dione in a dioxane/methanol mixture (50/50), and after purification by chromatography on a column of silica eluted with a heptane/ethyl acetate mixture (7/3), 800 mg (27%) of the expected product are obtained.

reactant | 5-(3′-hydroxybiphenyl-4-ylmethylene)thiazolidine-2,4-dione | 10.1 mmol, 3 g | OC=1C=C(C=CC1)C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C16H11NO3S
solvent | dioxane methanol | O1CCOCC1.CO
product | 5-(3′-Hydroxybiphenyl-4-ylmethyl)-thiazolidine-2,4-dione | OC=1C=C(C=CC1)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C16H13NO3S
